US07612114B2
(R)-6-{2-{{4-[2-(7-Azabicyclo[2.2.1]hept-7-yl)ethyl]benzyl}ethylamino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-{2-[(4-carboxymethylbenzyl)ethylamino]phenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (28 mg) and 7-azabicyclo[2.2.1]heptane hydrochloride (38 mg) according to an analogous synthetic method to Example 715 and purified by LC-MS, the title compound (6.2 mg) was obtained.

reactant | pivalic acid (R)-6-{2-[(4-carboxymethylbenzyl)ethylamino]phenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 28 mg | C(=O)(O)CC1=CC=C(CCCNC2=C(C=CC=C2)[C@H]2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1 | C32H37NO4
reactant | 7-azabicyclo[2.2.1]heptane hydrochloride | 38 mg | Cl.C12CCC(CC1)N2
product | (R)-6-{2-{{4-[2-(7-Azabicyclo[2.2.1]hept-7-yl)ethyl]benzyl}ethylamino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 6.2 mg | C12CCC(CC1)N2CCC2=CC=C(CCCNC1=C(C=CC=C1)[C@H]1CC=3C=CC(=CC3CC1)O)C=C2 | C33H40N2O
